US04367236
1,3-Dihydro-4-methyl-5-(2-phenylacetyl)-2H-imidazol-2-one
To 26.6 g (0.2 mole) of aluminum chloride in 250 ml of dichloromethane is added 9.8 g (0.1 mole) of 1,3-dihydro-4-methyl-2H-imidazol-2-one and, dropwise, 16.9 g (0.11 mole) of phenylacetyl chloride. The mixture is stirred and heated to reflux for 5 hours. The mixture is cooled and 200 ml of 2 N-hydrochloric acid is added dropwise. The resulting precipitate is collected, washed with water, and recrystallized from 50% aqueous ethanol to give the title compound, m.p. 239°-240° C.

reactant | aluminum chloride | 0.2 mole, 26.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dihydro-4-methyl-2H-imidazol-2-one | 0.1 mole, 9.8 g | CC=1NC(NC1)=O | C4H6N2O
reactant | phenylacetyl chloride | 0.11 mole, 16.9 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 1,3-Dihydro-4-methyl-5-(2-phenylacetyl)-2H-imidazol-2-one | CC=1NC(NC1C(CC1=CC=CC=C1)=O)=O | C12H12N2O2
